US03931269
To 17.5 ml. of 2N alcoholic potassium hydroxide solution (0.035 mole) is added 4.84 g. (0.035 mole) of thiobenzoic acid. The solution is cooled to room temperature and to this is added in small portions 0.035 mole of α-chloro-6-methoxy-2-naphthylacetic acid. The reaction mixture is stirred at room temperature for 25 hours, then the solvent is removed, the residue dissolved in ether, filtered and washed with cold water. The ethereal solution is then dried over magnesium sulfate and evaporated to dryness to obtain α-benzoylthio-6-methoxy-2-naphthylacetic acid.

reactant | potassium hydroxide | 0.035 mole, 2N | [OH-].[K+]
reactant | thiobenzoic acid | 0.035 mole | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | α-chloro-6-methoxy-2-naphthylacetic acid | 0.035 mole | ClC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C13H11ClO3
product | α-benzoylthio-6-methoxy-2-naphthylacetic acid | C(C1=CC=CC=C1)(=O)SC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OC | C20H16O4S
